US06306463B1
N,N′,N″-tri-n-butylcitramide was prepared by the reaction of n-butylamine with triethylcitrate. To a round-bottomed flask were added triethylcitrate (31.485 g; 0.1140 mole, 1 eq) and methanol (40 mL). To this solution, n-butylamine (24.999 g; 3.00 eq) was slowly poured. The clear light yellow solution stirred for 3 days at room temperature prior to the removal of methanol via rotary evaporation at 60° C. The resulting crude tacky solid was triturated using diethylether, collected via filtration and dried in vacuo to give a white powder with a slight amine odor (23.95 g; 58% yield).

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | triethylcitrate | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | triethylcitrate | 0.1140 mole, 31.485 g, 1 eq | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | n-butylamine | 24.999 g, 3.00 eq | C(CCC)N | C4H11N
solvent | methanol | 40 mL | CO | CH4O
product | N,N′,N″-tri-n-butylcitramide | 58% yield | C(CCC)NC(CC(O)(C(=O)NCCCC)CC(=O)NCCCC)=O | C18H35N3O4
